US08476434B2
Synthesis of 4-Methyl-3-((3-(6-(methylamino)-4-pyrimidinyl)-2-pyridinyl)oxy)-N-(3-(trifluoromethyl)phenyl)benzamide
[6-(2-Chloro-pyridin-3-yl)-pyrimidin-4-yl]-methyl-amine (55 mg, 0.25 mmol), 3-hydroxy-4-methyl-N-(3-trifluoromethyl-phenyl)-benzamide (81 mg, 0.27 mmol), Cs2CO3 (162 mg, 0.50 mmol) and DMSO (0.8 mL) were combined. The mixture was heated overnight at 125° C. in a sealed tube. The resulting mixture was cooled to RT, diluted with water and extracted with EtOAc. The aqueous layer was neutralized (pH˜7) with TFA and extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated to yield the title compound. MS m/z=480 [M+1]+. Calc'd for C25H20F3N5O2: 479.47.

reactant | [6-(2-Chloro-pyridin-3-yl)-pyrimidin-4-yl]-methyl-amine | 0.25 mmol, 55 mg | ClC1=NC=CC=C1C1=CC(=NC=N1)NC | C10H9ClN4
reactant | 3-hydroxy-4-methyl-N-(3-trifluoromethyl-phenyl)-benzamide | 0.27 mmol, 81 mg | OC=1C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC1C | C15H12F3NO2
reactant | Cs2CO3 | 0.50 mmol, 162 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMSO | 0.8 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-Methyl-3-((3-(6-(methylamino)-4-pyrimidinyl)-2-pyridinyl)oxy)-N-(3-(trifluoromethyl)phenyl)benzamide | CC1=C(C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=C1)OC1=NC=CC=C1C1=NC=NC(=C1)NC | C25H20F3N5O2
